US08686044B2
Preparation of 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline
100 g (0.273 mol) of 4-(perfluoropropan-2-yl)-2-(trifluoromethyl)aniline was charged to 500 ml of DMF, and 52.1 g (0.287 mol) of N-bromosuccinimide was charged in separate portions thereto over 30 minutes. After stirring at 60° C. for 2 hours, and then cooling to room temperature, the mixture was discharged to 2000 ml of water. The mixture was extracted with ethyl acetate, then washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent solvent; hexane:ethyl acetate=20:1) to prepare 89.0 g (yield 80%) of a target compound.

reactant | 4-(perfluoropropan-2-yl)-2-(trifluoromethyl)aniline | 0.273 mol, 100 g | FC(C(C(F)(F)F)(C1=CC(=C(N)C=C1)C(F)(F)F)F)(F)F | C10H5F10N
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
reactant | N-bromosuccinimide | 0.287 mol, 52.1 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | 2000 ml | O | H2O
product | 2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethyl)aniline | 89.0 g, yield 80% | BrC1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C(F)(F)F | C10H4BrF10N
